US04372972
Preparation of N-(2-Methoxyacetyl)-N-(2-propynyl)-2,6-dimethylbenzenamine
A mixture of 3.18 g (0.02 mole) of N-(2-propynyl)-2,6-dimethylbenzenamine, 2.4 g (0.022 mole) of methoxyacetyl chloride and 6 g of 4A molecular sieves in 100 ml of toluene is stirred at 60° overnight under a nitrogen atmosphere. The reaction mixture is cooled to room temperature and then filtered. The filtrate is combined with 200 ml of ether and washed with water, saturated sodium chloride solution, and dried over sodium sulfate. The drying agent is filtered and the solvent is evaporated under vacuum to give an orange-red oily material which is further purified by column chromatography (silica gel) using 20/80 ethyl acetate-n-hexane as solvent to give 2.57 g of pure product.

reactant | N-(2-propynyl)-2,6-dimethylbenzenamine | 0.02 mole, 3.18 g | C(C#C)NC1=C(C=CC=C1C)C | C11H13N
reactant | methoxyacetyl chloride | 0.022 mole, 2.4 g | COCC(=O)Cl | C3H5ClO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-Methoxyacetyl)-N-(2-propynyl)-2,6-dimethylbenzenamine | 2.57 g | COCC(=O)N(C1=C(C=CC=C1C)C)CC#C | C14H17NO2
